US03978121
5-Ethyl-5-hydroxy-5H-dibenzo[a,d]cycloheptene (13.7 g., 0.058 mole) is dissolved in 80 ml. of acetyl chloride and the solution heated to refluxing for 90 minutes. The acetyl chloride is evaporated under reduced pressure and the residue dissolved in benzene. After washing with alkali followed by a water wash, the benzene is removed and the product distilled under reduced pressure. The desired 5-ethylidene-5H-dibenzo[a,d]cycloheptene is obtained as the fraction boiling at 130°-135°C. (0.02 mm.). It crystallized on cooling. The compound was purified further by recrystallization from 95% alcohol.

reactant | 5-Ethyl-5-hydroxy-5H-dibenzo[a,d]cycloheptene | 0.058 mole, 13.7 g | C(C)C1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)O | C17H16O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 5-ethylidene-5H-dibenzo[a,d]cycloheptene | C(C)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C17H14
